US04006145
A solution of 480 g of 2-chloro-5-nitro-benzaldehyde in 3.2 litres of ethanol is treated dropwise under a nitrogen atmosphere at 30°-40° C with stirring within 4 hours with a solution of 320 g of thiophenol in 120 g of sodium hydroxide, 2 litres of ethanol and 440 ml of water. The mixture is stirred for a further 30 minutes at 60° C, then cooled to 0° C and filtered. There is obtained crude crystalline 3-nitro-6-(phenylthio)-benzaldehyde of melting point 96°-100° C.

reactant | 2-chloro-5-nitro-benzaldehyde | 480 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | thiophenol | 320 g | C1(=CC=CC=C1)S | C6H6S
solvent | ethanol | 3.2 litres | C(C)O | C2H6O
solvent | sodium hydroxide | 120 g | [OH-].[Na+]
solvent | ethanol | 2 litres | C(C)O | C2H6O
solvent | water | 440 ml | O | H2O
product | 3-nitro-6-(phenylthio)-benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C(=CC1)SC1=CC=CC=C1 | C13H9NO3S
